US05703240
2-Methoxy-5-(tetrazol-1-yl)benzaldehyde
Active manganese dioxide (77 mg) was added to a stirred solution of 2-methoxy-5-(tetrazol-1-yl)phenylmethanol (40 mg) in tetrahydrofuran (1 ml). After 30 min the mixture was heated in an oil-bath at 70°. After a further 30 min, active manganese dioxide (67 mg) was added. After a further 1 h the mixture was allowed to cool and then filtered. The filtrate was evaporated to give the title compound as a yellow solid (33 mg); nmr, δ (d6 -DMSO), 4.4 (s,3H), 7.53 (d, 1H, J=ca 10 Hz), 8.12-8.23 (m, 2H), 10.12 (s, 1H), 10.40 (s, 1H).

reactant | 2-methoxy-5-(tetrazol-1-yl)phenylmethanol | 40 mg | COC1=C(C=C(C=C1)N1N=NN=C1)CO | C9H10N4O2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 77 mg | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 67 mg | [O-2].[O-2].[Mn+4]
product | 2-Methoxy-5-(tetrazol-1-yl)benzaldehyde | 33 mg | COC1=C(C=O)C=C(C=C1)N1N=NN=C1 | C9H8N4O2
